data/oMe_Silver.jsonl
{"reaction_id": "NR-324_1-C_2-C(F)(F)F_3-C#N_4-CC(=O)O_5-C(C)C","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["CC(C(F)(F)F)=C(C#N)C(CC(=O)O)C(C)C","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["CC(C(F)(F)F)=C(C#N)C(CC(=O)O)(C(C)C)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "CC(C(F)(F)F)=C(C#N)[C](CC(=O)O)C(C)C","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "CC(C(F)(F)F)=C(C#N)C(CC(=O)O)(C(C)C)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
{"reaction_id": "NR-223_1-C(C)(C)C_2-C(c1ccccc1)c2ccccc2_3-c1ccoc1_4-c1ccccc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(C(C)(C)C)(C(c1ccccc1)c2ccccc2)(O)C(O)(c1ccoc1)(c1ccccc1)"],"products_smiles": ["C(=O)(C(C)(C)C)C(C(c1ccccc1)c2ccccc2)(c1ccoc1)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(C(c1ccccc1)c2ccccc2)(O)C([OH2+])(c1ccoc1)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C(C)(C)C)(C(c1ccccc1)c2ccccc2)(O)[C+](c1ccoc1)(c1ccccc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C(C)(C)C)C(C(c1ccccc1)c2ccccc2)(c1ccoc1)(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
